US07112585B2
{5-[4-(1H-Imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethylphenyl)-amine
A mixture of {5-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethyl-phenyl)-amine (14 mg, 0.032 mmol), prepared by the method described in Example 29, NMO (5.6 mg, 0.048 mmol), TPAP (2.2 mg, 0.006 mmol), 4 Å molecular sieves (100 mg) and CH2Cl2 (2 mL) was stirred under N2 at room temperature for 10 min, and then filtered through a pad of silica gel. The filtrate was concentrated in vacuo, and the residue was purified by chromatography on silica gel (EtOAc) to provide the target compound (5 mg, 36%) as a white solid: mp 282–284° C.; 1H NMR (500 MHz, CDCl3) δ 9.54 (br s, 1H), 8.78 (s, 1H), 8.27 (br s, 1H), 8.02 (d, J=8.5 Hz, 2H), 7.99 (d, J=8.5 Hz, 2H), 7.28 (s, 1H), 7.18 (s, 1H), 6.91 (s, 2H), 2.40 (s, 3H), 2.30 (s, 3H), 2.02 (s, 6H); ESI MS m/z 434 [(M+H)+, calcd for C23H24N5O2S, 434.2].

reactant | {5-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethyl-phenyl)-amine | 0.032 mmol, 14 mg | N1C(=NCC1)C1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)NC1=C(C=C(C=C1C)C)C | C23H25N5O2S
reactant | NMO | 0.048 mmol, 5.6 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | TPAP | 0.006 mmol, 2.2 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | {5-[4-(1H-Imidazol-2-yl)-benzenesulfonyl]-2-methyl-pyrimidin-4-yl}-(2,4,6-trimethylphenyl)-amine | 5 mg, 36% | N1C(=NC=C1)C1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)NC1=C(C=C(C=C1C)C)C | C23H23N5O2S
